US06355655B1
N-(2-(N-Methyl-2-pyrrolidinyl)propyl) 2-propanesulfonamide
To a stirred suspension of the product of Preparation 5 (2.69 g, 12.5 mmol) in 50 mL of dichloromethane under N2 at 0° C. is added 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) (3.8 mL 27.5 mmol). The reaction mixture is stirred for 30 minutes, then isopropylsulfonyl chloride (1.7 mL, 15.0 mmol) is added dropwise. The reaction mixture is then allowed to warm to ambient temperature and stirred for 4 h. The reaction is then diluted with H2O and the layers are separated. The aqueous layer is extracted with dichloromethane and the combined organic extracts washed with saturated NaCl, dried over MgSO4 and filtered. Evaporation of the filtrate and chromatography of the residue gives the title compound.

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 27.5 mmol, 3.8 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | isopropylsulfonyl chloride | 15.0 mmol, 1.7 mL | C(C)(C)S(=O)(=O)Cl | C3H7ClO2S
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | H2O | O | H2O
product | N-(2-(N-Methyl-2-pyrrolidinyl)propyl) 2-propanesulfonamide | CN1C(CCC1)C(CNS(=O)(=O)C(C)C)C | C11H24N2O2S
